US09340547B2
a) (S)-Benzyl 1-(3-bromo-2-(pyrimidin-5-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
The title compound was prepared from (S)-methyl 1-(2-(benzyloxycarbonylamino)propanamido)-3-bromo-1H-pyrrole-2-carboxylate (0.81 g, 1.91 mmol) and pyrimidin-5-amine (1.45 g, 15.3 mmol) following the experimental procedure described in Preparation 44a. 0.58 g (62% yield) of the desired compound were obtained.

reactant | (S)-methyl 1-(2-(benzyloxycarbonylamino)propanamido)-3-bromo-1H-pyrrole-2-carboxylate | 1.91 mmol, 0.81 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NN1C(=C(C=C1)Br)C(=O)OC)C | C17H18BrN3O5
reactant | pyrimidin-5-amine | 15.3 mmol, 1.45 g | N1=CN=CC(=C1)N | C4H5N3
product | (S)-Benzyl 1-(3-bromo-2-(pyrimidin-5-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 0.58 g, 62% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(OCC1=CC=CC=C1)=O)=O)C(NC=1C=NC=NC1)=O | C20H19BrN6O4
